US05059608
To a suspension of 1-phenyl-2-methyl-3,4-dihydroisoquinolinium iodide (1.0 g) in tetrahydrofuran (15 ml) was added 3M diethyl ether solution of methyl magnesium bromide (1.9 ml) with stirring at room temperature. After stirring for 30 minutes, the mixture was poured into saturated ammonium chloride aqueous solution and ethyl acetate. The organic layer was washed with water, sodium chloride aqueous solution and dried over magnesium sulfate, and evaporated in vacuo. The residue was recrystallized from n-hexane to give 1,2-dimethyl-1-phenyl-1,2,3,4-tetrahydroisoquinoline (0.6 g).

reactant | 1-phenyl-2-methyl-3,4-dihydroisoquinolinium iodide | 1.0 g | [I-].C1(=CC=CC=C1)C1=[N+](CCC2=CC=CC=C12)C
reactant | diethyl ether | 3M | C(C)OCC | C4H10O
reactant | methyl magnesium bromide | 1.9 ml | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,2-dimethyl-1-phenyl-1,2,3,4-tetrahydroisoquinoline | 0.6 g | CC1(N(CCC2=CC=CC=C12)C)C1=CC=CC=C1 | C17H19N
